US07432258B2
A 1 L round-bottom flask was purged with argon and charged with sodium hydride (6.94 g of a 60% dispersion of NaH in mineral oil, 0.174 mol) and 60 mL of anhydrous DMF. This suspension was magnetically stirred and cooled to 0° C. in an ice-bath and then treated slowly with a suspension of 6,7-dichloro-2H-1,4-benzoxazin-3(4H)-one (22.2 g. 0.102 mol) in 140 mL of anhydrous DMF. The reaction mixture was maintained at 0° C. for one hour and then treated slowly with ethyl bromoacetate (29.4 mL, 0.265 mol) over a period of 5-10 minutes. This reaction mixture was maintained at 0° C. for thirty minutes, allowed to warm to room temperature, and then was maintained at room temperature for thirty minutes. HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) showed that all of the starting material (Rt=6.2 min) was gone and that a new compound had formed (Rt=7.5 min). The reaction mixture was poured into 5.5 L of 5% aqueous HCl and the product precipitated immediately as a yellow solid. The suspension was stirred for 10 minutes and the solid was filtered off to give a yellow filter cake. The solid was rinsed with ice-cold ethanol (3×200 mL) and hexanes (3×200 mL) and then dried under high vacuum to give ethyl (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetate (26.0 g, 0.085 mol, 84%) as a white powder. MS (ES) m/e 304 [M+H]+.

reactant | 6,7-dichloro-2H-1,4-benzoxazin-3(4H)-one | 0.102 mol, 22.2 g | ClC=1C(=CC2=C(NC(CO2)=O)C1)Cl | C8H5Cl2NO2
reactant | ethyl bromoacetate | 0.265 mol, 29.4 mL | BrCC(=O)OCC | C4H7BrO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 5.5 L | Cl | ClH
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
solvent | CH3CN H2O | CC#N.O
product | ethyl (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetate | 0.085 mol, 26.0 g, 84% | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)OCC)C1)Cl | C12H11Cl2NO4
